Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left lower extremity ulcers
 
Major Surgical or Invasive Procedure:
___: Left lower extremity angiogram with anterior tibial 
angioplasty. 

 
History of Present Illness:
Mr. ___ is a ___ male with a history of CABG
(LIMa-LAD, SVG-RCA/PDA), AF on eliquis (with chronic
bradycardia), history of LLE ulcers, underwent LLE angio today
with stent to anterior tibial artery to improve blood flow to 
his legs.
 
Past Medical History:
Atrial Flutter 
Carpal Tunnel Syndrome status post release
Chronic Otitis Media
Diabetes Mellitus
Gastroesophageal Reflux Disease
Hyperlipidemia
Hypertension
Hyperlipidemia
Mastoiditis
Peripheral Neuropathy

 
Social History:
___
Family History:
Denies premature coronary artery disease
 
Physical Exam:
Gen: Generally older gentleman lying flat in bed. 
HEENT: Sclera anicteric and mucus membranes moist. Neck supple 
without
lymphadenopathy or JVD. 
Resp: Lungs are clear bilaterally. 
CV: Heart is irregular with a normal S1 and S2 and no murmurs, 
rubs, or
gallops. 
Abd: Abdomen is soft, nontender and nondistended. 
Ext: Lower extremities are without edema. Cranial nerves II-XII 
intact and
he has good strength and sensation throughout. Normal mood and
affect. Significant ulceration of toes ___ on the right foot, 
appears as dry gangrene. 
 
Pertinent Results:
___ 09:30PM   GLUCOSE-149* UREA N-31* CREAT-1.2 SODIUM-140 
POTASSIUM-3.5 CHLORIDE-94* TOTAL CO2-33* ANION GAP-13
___ 09:30PM   GLUCOSE-149* UREA N-31* CREAT-1.2 SODIUM-140 
POTASSIUM-3.5 CHLORIDE-94* TOTAL CO2-33* ANION GAP-13
___ 09:30PM   estGFR-Using this
___ 09:30PM   WBC-9.1 RBC-3.98* HGB-11.4* HCT-35.1* MCV-88 
MCH-28.6 MCHC-32.5 RDW-15.3 RDWSD-49.1*
___ 09:30PM   PLT COUNT-219
 
Brief Hospital Course:
He was under conscious sedation for angiogram. He developed 
bradycardia during and after the procedure to the mid ___ in 
afib. He was asymptomatic. He arrived back to
the floor without complaints. Cardiology was consulted for
bradycardia and they felt that it was due to atrial fibrillation 
with slow ventricular response.

___: Pt had briefly low FSBG, and his lantus was decreased 
from 62 to 50. Foley for retention.

Prior to discharge, the patient was tolerating a diet, voiding, 
and ambulating. Appropriate instructions for discharge were 
provided to the patient.
 
Medications on Admission:
1.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth ___ capsules every 4 
hours as needed Disp #*5 Capsule Refills:*0 
2.  Atorvastatin 40 mg PO QPM Peripheral vascular disease 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Daily Disp #*5 
Tablet Refills:*0 
3.  Acetaminophen 650 mg PO TID  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
5.  Apixaban 2.5 mg PO BID Atrial fibrillation 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth Twice daily 
Disp #*30 Tablet Refills:*1 
6.  Aspirin 81 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Daily 
Disp #*20 Capsule Refills:*1 
8.  Famotidine 20 mg PO DAILY  
9.  Finasteride 5 mg PO DAILY  
10.  LORazepam 0.5 mg PO Q12H:PRN anxiety  
11.  Metolazone 5 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Pregabalin 200 mg PO TID  
14.  Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 1 by mouth Daily Disp #*30 Tablet 
Refills:*1 
15.  Tamsulosin 0.4 mg PO QHS  
16.  Torsemide 10 mg PO DAILY  
17.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth ___ capsules every 4 
hours as needed Disp #*5 Capsule Refills:*0 
2.  Atorvastatin 40 mg PO QPM Peripheral vascular disease 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Daily Disp #*5 
Tablet Refills:*0 
3.  Acetaminophen 650 mg PO TID  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
5.  Apixaban 2.5 mg PO BID Atrial fibrillation 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth Twice daily 
Disp #*30 Tablet Refills:*1 
6.  Aspirin 81 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Daily 
Disp #*20 Capsule Refills:*1 
8.  Famotidine 20 mg PO DAILY  
9.  Finasteride 5 mg PO DAILY  
10.  LORazepam 0.5 mg PO Q12H:PRN anxiety  
11.  Metolazone 5 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Pregabalin 200 mg PO TID  
14.  Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 1 by mouth Daily Disp #*30 Tablet 
Refills:*1 
15.  Tamsulosin 0.4 mg PO QHS  
16.  Torsemide 10 mg PO DAILY  
17.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Nonhealing ulcer secondary to peripheral arterial disease. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.   To do the procedure, a small puncture 
was made in your right groin arteries.  The puncture site heals 
on its own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Peripheral Angiography

Puncture Site Care

For one week:
_x0095_Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
_x0095_Use only mild soap and water to gently clean the area around 
the puncture site. 
_x0095_Gently pat the puncture site dry after showering. 
_x0095_Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 

You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 

Activity 

For the first 48 hours: 
1.Do not drive for 48 hours after the procedure

For the first week:
_x0095_Do not lift, push , pull or carry anything heavier than 10 
pounds
_x0095_Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.

After one week:
_x0095_You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.

Medications:

Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

For  Problems or Questions:

Call ___ in an emergency such as:
_x0095_Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
_x0095_Bleeding that is associated with nausea, weakness, or fainting.

Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
_x0095_Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
_x0095_Any change in sensation or temperature in your legs
_x0095_Fever of 101 or greater
_x0095_Any questions or concerns about recovery from your angiogram 

Wound Care:
Please wrap the wound daily with kerlix and change the dressing 
daily.

 
Followup Instructions:
___